US06833421B1
13.02 g (95.3 mmol) of 6-chlorohexanol were added to a solution of 20.04 g (95.3 mmol) of 5-hydroxyisophthalic acid dimethyl ester and 47.4 g (180.5 mmol) of triphenylphosphine in 300 ml of tetrahydrofuran. The colourless solution was cooled to 0° C. and then 79 ml (180.5 mmol) of a 40% solution of azodicarboxylic acid diethyl ester in toluene were added dropwise over a period of 2 hours and 45 minutes. The mixture was allowed to react for another 30 minutes at 0° C. and then for 22 hours at room temperature. The reaction mixture was concentrated by evaporation under vacuum. The residue was filtered through silica gel using dichloromethane:diethylether (85:15) as eluent. The filtrate was concentrated in vacuum and further purified by column chromatography on silica gel with hexane:ethyl acetate (9:1) to give 17.12 g (55%) of 5-[(6-chlorohexyl)oxy]isophthalic acid dimethyl ester as a white solid.

reactant | 6-chlorohexanol | 95.3 mmol, 13.02 g | ClCCCCCCO | C6H13ClO
reactant | 5-hydroxyisophthalic acid dimethyl ester | 95.3 mmol, 20.04 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | triphenylphosphine | 180.5 mmol, 47.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-[(6-chlorohexyl)oxy]isophthalic acid dimethyl ester | 17.12 g, 55% | COC(C1=CC(C(=O)OC)=CC(=C1)OCCCCCCCl)=O | C16H21ClO5
